US04097499
5-(4-Chlorophenyl)furfural (42 g, 0.20 mole) was added in portions to a solution of 15 g (0.20 mole) of 1-amino-2-propanol in 200 ml of methanol with stirring at room temperature. The mixture was stirred for 0.5 hr., heated under reflux for 1.5 hr., and allowed to stand overnight. To this solution 7.6 g (0.20 mole) of sodium borohydride was added in portions over 1 hr. at 15°-20°. The solution was stirred at ambient temperature for 1 hr. and heated under reflux for 0.5 hr. The solvent was removed on a rotary evaporator, and the residual solid was partitioned between chloroform and water. The layers were separated, and the aqueous layer was extracted once with chloroform. The combined chloroform layers were dried over MgSO4 and concentrated on a rotary evaporator. The residual solid was dissolved in 150 ml of absolute methanol with warming and was treated with 40 ml of methanolic HCl with cooling. Anhydrous ether (1 1.) was added, and the solid which was deposited was collected by filtration to give 30 g (50%) of 1-[5-(4-chlorophenyl)furfurylamino]-2-propanol hydrochloride. One recrystallization from CH3CN gave an analytical sample; m.p. 197°-202°.

reactant | 5-(4-Chlorophenyl)furfural | 0.20 mole, 42 g | ClC1=CC=C(C=C1)C1=CC=C(C=O)O1 | C11H7ClO2
reactant | 1-amino-2-propanol | 0.20 mole, 15 g | NCC(C)O | C3H9NO
reactant | sodium borohydride | 0.20 mole, 7.6 g | [BH4-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 1-[5-(4-chlorophenyl)furfurylamino]-2-propanol hydrochloride | 30 g, 50% | Cl.ClC1=CC=C(C=C1)C1=CC=C(CNCC(C)O)O1 | InChI=1S/C14H16ClNO2.ClH/c1-10(17)8-16-9-13-6-7-14(18-13)11-2-4-12(15)5-3-11;/h2-7,10,16-17H,8-9H2,1H3;1H
